US06300352B1
a) (2S)-2-(4-Bromophenoxy)propionic acid, ethyl ester
Prepared according to the method described in Example 1a) from diethylazodicarboxylate (6.7 ml), triphenylphosphine (13.11 g), (R)-(+)-ethyl lactate (5.67 ml) and 4-bromophenol (8.65 g) in dry tetrahydrofuran (125 ml). The residue obtained after work-up was purified by column chromatography over silica eluting with isohexane:dichloromethane (2:3) to give the sub-title compound as an oil (12.2 g).

reactant | diethylazodicarboxylate | 6.7 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 13.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)-(+)-ethyl lactate | 5.67 ml | C([C@H](O)C)(=O)OCC | C5H10O3
reactant | 4-bromophenol | 8.65 g | BrC1=CC=C(C=C1)O | C6H5BrO
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | (2S)-2-(4-Bromophenoxy)propionic acid, ethyl ester | 12.2 g | BrC1=CC=C(O[C@H](C(=O)OCC)C)C=C1 | C11H13BrO3
